US08349860B2
A mixture of 3-nitropyrrole (270 mg, 2.41 mmol), iodobenzene (0.267 mL, 2.39 mmol), 8-hydroxyquinoline (60 mg, 0.41 mmol) and K2CO3 (600 mg, 4.34 mmol) in DMSO (3 mL) was degassed with argon before being charged with CuI (45 mg, 0.23 mmol). The mixture in a sealed tube was heated at 130 C for 20 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 3-nitro-1-phenyl-1H-pyrrole (410 mg).

reactant | 3-nitropyrrole | 2.41 mmol, 270 mg | [N+](=O)([O-])C1=CNC=C1 | C4H4N2O2
reactant | iodobenzene | 2.39 mmol, 0.267 mL | IC1=CC=CC=C1 | C6H5I
reactant | 8-hydroxyquinoline | 0.41 mmol, 60 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 4.34 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.23 mmol, 45 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 3-nitro-1-phenyl-1H-pyrrole | 410 mg | [N+](=O)([O-])C1=CN(C=C1)C1=CC=CC=C1 | C10H8N2O2
